US04230850
3-Butyl-4,5,7-tri(2'-morpholinoethoxy)-coumarin
7.5 g. (0.03 mol) of 3-butyl-4,5,7-trihydroxy-coumarin are treated with 17.5 g. (0.117 mol) of 2-morpholino-1-chlorethane, as in Example 1. A beige-coloured solid is obtained. M.P. 131° C. (ethanol). Weight 7.7 g.; yield 45% (theoretical yield 17.7 g.).

reactant | 3-butyl-4,5,7-trihydroxy-coumarin | 0.03 mol | C(CCC)C=1C(OC2=CC(=CC(=C2C1O)O)O)=O | C13H14O5
reactant | 2-morpholino-1-chlorethane | 0.117 mol | O1CCN(CC1)CCCl | C6H12ClNO
solvent | ethanol | C(C)O | C2H6O
product | 3-Butyl-4,5,7-tri(2'-morpholinoethoxy)-coumarin | yield 45% | C(CCC)C=1C(OC2=CC(=CC(=C2C1OCCN1CCOCC1)OCCN1CCOCC1)OCCN1CCOCC1)=O | C31H47N3O8
